* SPICE3 file created from dco_aux_inv.ext - technology: sky130A

.subckt dco_aux_inv VPWR VCCA A Y GND VGND
X0 Y A VGND GND sky130_fd_pr__nfet_01v8 ad=0.8 pd=4.8 as=0.8 ps=4.8 w=2 l=1
X1 Y A VPWR VCCA sky130_fd_pr__pfet_01v8 ad=1.2 pd=6.8 as=1.2 ps=6.8 w=3 l=1
.ends
